US08470841B2
N-(1-Methyl-3-{4-[5-(tetrahydrofuran-3-yloxy)pyridin-2-yloxy]phenyl}propyl)acetamide
N-[3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide was reacted with 2-chloro-5-(tetrahydrofuran-3-yloxy)pyridine in analogy to example 2c.

reactant | N-[3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide | OC1=CC=C(C=C1)CCC(C)NC(C)=O | C12H17NO2
reactant | 2-chloro-5-(tetrahydrofuran-3-yloxy)pyridine | ClC1=NC=C(C=C1)OC1COCC1 | C9H10ClNO2
product | N-(1-Methyl-3-{4-[5-(tetrahydrofuran-3-yloxy)pyridin-2-yloxy]phenyl}propyl)acetamide | CC(CCC1=CC=C(C=C1)OC1=NC=C(C=C1)OC1COCC1)NC(C)=O | C21H26N2O4
